US07405236B2
e] {6-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid
To a solution of {6-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester (30 mg, 67 μmol) in THF/methanol 2/1 (1.5 ml) was added 1 N aqueous LiOH solution (400 μl). The reaction mixture was stirred for 14 h at ambient temperature and concentrated under reduced pressure. The residue was dissolved in 1 N HCl/ice water 1/1 and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give the title compound (28 mg, 67 μmol, quant.) as brown crystals.

reactant | {6-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | 67 μmol, 30 mg | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H22F3NO4
reactant | LiOH | 1 N, 400 μl | [Li+].[OH-]
solvent | THF methanol | 1.5 ml | C1CCOC1.CO
product | {6-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid | 67 μmol, 28 mg | FC(OC1=CC=C(C=C1)C#CCCCOC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C22H18F3NO4
